US06380215B1
A mixture of N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3(S)-vinyl-β-alanine ethyl ester (0.8 g) and PtO2 (0.2 g) in ethanol (10 ml) was hydrogenated at atmospheric pressure for 2 hours. After the catalyst was removed by filtration, the filtrate was concentrated in vacuo to give N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3(S)-ethyl-β-alanine ethyl ester (0.73 g) as a colorless oil.

reactant | N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3(S)-vinyl-β-alanine ethyl ester | 0.8 g | C(C)OC(C[C@H](NC(=O)[C@H]1CN(CCC1)C(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O)C=C)=O | C26H43N3O6
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | PtO2 | 0.2 g | O=[Pt]=O
product | N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3(S)-ethyl-β-alanine ethyl ester | 0.73 g | C(C)OC(C[C@@H](NC(=O)[C@H]1CN(CCC1)C(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O)CC)=O | C26H45N3O6
